US06251947B1
A solution of 4.23 g (14.2 mmol) of 2-[1-methyl-2-[(methylsulfonyl)oxy]propyl]-1H-isoindole-1,3(2H)-dione, 2.05 g (14.2 mmol) of 4-chloro-5-methyl-1H-pyrrole-2-carbonitrile and 2.35 g (14.2 mmol) of K2CO3 in 60 mL DMF was heated at 60° C. overnight. The mixture was diluted with ether and washed 4 times with water. Drying (MgSO4) and removal of solvent gave an oil which was chromatographed on silica gel (15% ethyl acetate in hexanes) to give 3.2 g of 4-chloro-1-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)butyl]-5-methyl-1H-pyrrole-2-carbonitrile as a solid, 1NMR (CDCl3) δ 1.5 (d, 3H) 2.2 (s, 3H and m, 1H), 2.7 (m, 1H), 3.9 (m, 1H), 4.05 (m, 1H), 4.4 (m, 1H), 6.6 (s, 1H), 7.85 (m, 2H), 7.9 (m, 2H).

reactant | 2-[1-methyl-2-[(methylsulfonyl)oxy]propyl]-1H-isoindole-1,3(2H)-dione | 14.2 mmol, 4.23 g | CC(C(C)OS(=O)(=O)C)N1C(C2=CC=CC=C2C1=O)=O | C13H15NO5S
reactant | 4-chloro-5-methyl-1H-pyrrole-2-carbonitrile | 14.2 mmol, 2.05 g | ClC=1C=C(NC1C)C#N | C6H5ClN2
reactant | K2CO3 | 14.2 mmol, 2.35 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 4-chloro-1-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)butyl]-5-methyl-1H-pyrrole-2-carbonitrile | 3.2 g | ClC=1C=C(N(C1C)CCC(C)N1C(C2=CC=CC=C2C1=O)=O)C#N | C18H16ClN3O2
